US05614633
A mixture of 0.53 g of 3,4-epoxy-2,2-bisfluoromethyl-3,4-dihydro-6-nitro-2H-1-benzopyran, 15 ml of a concentrated aqueous ammonia solution and 15 ml of ethanol was stirred at room temperature for 42 hours. The solvent was distilled off and methylene chloride was added thereto. The mixture was extracted with 1N hydrochloric acid and 2N sodium hydroxide was added to an aqueous layer to form an alkaline solution. The solution was extracted with methylene chloride and the organic layer was washed with water and dried. The solvent was distilled off and the resultant residue was recrystallized from a mixed solvent of ethyl acetate and hexane to obtain 0.32 g of 4-amino-2,2-bisfluoromethyl-3,4-dihydro-6-nitro-2H-1-benzopyran-3-ol represented by the following formula having a melting point of 174°-177° C. (decomp.).

reactant | 3,4-epoxy-2,2-bisfluoromethyl-3,4-dihydro-6-nitro-2H-1-benzopyran | 0.53 g | O1C2C(OC3=C(C21)C=C(C=C3)[N+](=O)[O-])(CF)CF | C11H9F2NO4
reactant | ammonia | 15 ml | N | H3N
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 4-amino-2,2-bisfluoromethyl-3,4-dihydro-6-nitro-2H-1-benzopyran-3-ol | 0.32 g | NC1C(C(OC2=C1C=C(C=C2)[N+](=O)[O-])(CF)CF)O | C11H12F2N2O4
